US06133262
B. 2-[4-Methoxyphenyl]-3-bromobenzo[b]thiophene
A mixture of the dibromobenzothiophene (11 g, 37.7 mmol), p-methoxyphenylboronic acid (5.7 g, 37.7 mmol), Pd(OAc) to (58 mg, 0.26 mmol) and tri-ortho-tolyl phosphine (237 mg) in 38 mL THF was treated with 38 mL 2 M Na2CO3 and refluxed in the absence of light overnight. Diluted with 100 mL EtOAc and separated the layers. The aqueous layer was extracted with EtOAc (50 mL). The combined organic layer was dried over MgSO4 and concentrated to an oil which was purified by chromatography (SiO2 ; stepwise 5 then 8% CHCl3 in hexanes) to recover 9.34 g (29.3 mmol, 78%) of the desired compound as a white solid.

reactant | dibromobenzothiophene | 37.7 mmol, 11 g | BrC1=C(SC2=C1C=CC=C2)Br | C8H4Br2S
reactant | p-methoxyphenylboronic acid | 37.7 mmol, 5.7 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2 M, 38 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 38 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | tri-ortho-tolyl phosphine | 237 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 2-[4-Methoxyphenyl]-3-bromobenzo[b]thiophene | 29.3 mmol, 9.34 g, 78% | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)Br | C15H11BrOS
